US04219489
3-Chloro-2-phenyltetrahydropyran
Into a dry flask fitted with dropping funnel reflux condenser, drying tube and mechanical stirrer was placed 51 g of magnesium turnings, followed by the addition of 200 ml of dry ether. A small portion of bromobenzene was added to initiate the reaction, followed by the remainder of 330 g (2.1 mole) of bromobenzene in 1 liter of dry ether at a rate sufficient to maintain reflux. The mixture was cooled in an ice-salt bath to which was added dropwise the cold ethereal solution of 2,3-dichlorotetrahydropyran. After completing the addition, the slurry was refluxed for 3 hours, cooled in an ice-water bath and 300 ml of cold 20 percent hydrochloric acid added slowly to the stirred mixture. The addition of 500 ml of water dissolved the precipitated salts, the layers were separated, the aqueous phase extracted with ether (2×200 ml) and the combined ethereal layers washed with brine (200 ml) and dried over anhydrous potassium carbonate. In vacuo removal of solvent left an amber liquid which was distilled through a 20 cm Vigreux column, whereby 256 g was collected at 77°-90°/0.25 mm Hg. The product was redistilled at 153-154/16 mm Hg, the distillate crystallizing to give needles m.p. 39.5°-40.5°. The crude yield was 256 g (93% yield based on dihydropyran).

reactant | bromobenzene | 2.1 mole, 330 g | BrC1=CC=CC=C1 | C6H5Br
reactant | 2,3-dichlorotetrahydropyran | ClC1OCCCC1Cl | C5H8Cl2O
reactant | hydrochloric acid | Cl | ClH
reactant | water | 500 ml | O | H2O
solvent | ether | 1 liter | CCOCC | C4H10O
product | 3-Chloro-2-phenyltetrahydropyran | 93% yield | ClC1C(OCCC1)C1=CC=CC=C1 | C11H13ClO
